US04652561
A mixture of 1.7 g of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one, 0.75 g potassium carbonate and 0.7 g of 3-dimethylaminopropyl chloride in 30 mL of ethyl acetate was stirred and heated at reflux for 2 hours then an additional 0.2 g of 3-dimethylaminopropyl chloride was added four times at 2 hour intervals. The mixture was heated at reflux for a total of 12 hours then to the mixture ethyl acetate and water were added. The organic phase was separated, washed with brine and dried (magnesium sulfate). Removal of the solvent gave 2.1 g (100%) (±)-cis-2,3-dihydro-3-hydroxy-5-[3-(dimethylamino)propyl]-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one. A sample was crystallized from ether, mp 123°-124°.

reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one | 1.7 g | O[C@H]1C(NC2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)=O | C20H17NO3S
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-dimethylaminopropyl chloride | 0.7 g | CN(CCCCl)C | C5H12ClN
reactant | 3-dimethylaminopropyl chloride | 0.2 g | CN(CCCCl)C | C5H12ClN
reactant | water | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (±)-cis-2,3-dihydro-3-hydroxy-5-[3-(dimethylamino)propyl]-2-(4-methoxyphenyl)naphtho[1,2-b]-1,4-thiazepin-4(5H)-one | 2.1 g, 100% | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCCN(C)C)=O | C25H28N2O3S
